US07598257B2
The (2E)-3-(dimethylamino)-1-[3-(trifluoromethyl)phenyl]prop-2-en-1-one (0.32 g, 0.0013 mol) was dissolved in ethanol (10.0 mL, 0.171 mol) and hydrazine (0.24 mL, 0.0078 mol) under nitrogen and heated to reflux. The reaction was monitored by HPLC and was complete almost immediately. The mixture was allowed to cool to rt and concentrated to give the crude product as an oil. The product was purified by FCC on silica gel eluting with a hexane:ethyl acetate gradient to give 3-[3-(trifluoromethyl)phenyl]-1H-pyrazole as an oil (0.25 g, 89% ), LC/MS (M+H)+: 213, 1H NMR (CDCl3) δ 8.06 (s, 1H), 7.99 (d, 1H, J=7.5), 7.66 (d, 1H, J=2.4), 7.57 (m, 1H), 7.55 (d, 1H, J=7.5), 6.69 (d, 1H, J=2.4).

reactant | (2E)-3-(dimethylamino)-1-[3-(trifluoromethyl)phenyl]prop-2-en-1-one | 0.0013 mol, 0.32 g | CN(/C=C/C(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
reactant | ethanol | 0.171 mol, 10.0 mL | C(C)O | C2H6O
reactant | hydrazine | 0.0078 mol, 0.24 mL | NN | H4N2
product | 3-[3-(trifluoromethyl)phenyl]-1H-pyrazole | 0.25 g, 89% | FC(C=1C=C(C=CC1)C1=NNC=C1)(F)F | C10H7F3N2
